US07932271B2
4-[[5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]piperidine dihydrochloride
To t-butyl 4-[[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]piperidine-1-carboxylate (41 mg, 0.067 mmol) was added a 20% hydrochloric acid-methanol solution. The resulting mixture was stirred for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue thus obtained was dissolved in chloroform, followed by further concentration. The amorphous substance thus obtained was dried under reduced pressure to afford the title compound (34 mg, 84%).

reactant | t-butyl 4-[[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]piperidine-1-carboxylate | 0.067 mmol, 41 mg | ClC=1C(=CC(=NC1)NC1CCN(CC1)C(=O)OC(C)(C)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C28H29Cl2F2N3O4S
reactant | hydrochloric acid methanol | Cl.CO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[[5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]piperidine dihydrochloride | 34 mg, 84% | Cl.Cl.ClC=1C(=CC(=NC1)NC1CCNCC1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | InChI=1S/C23H21Cl2F2N3O2S.2ClH/c24-14-1-4-17(5-2-14)33(31,32)23(19-11-15(26)3-6-21(19)27)18-12-22(29-13-20(18)25)30-16-7-9-28-10-8-16;;/h1-6,11-13,16,23,28H,7-10H2,(H,29,30);2*1H
